US06528529B1
4-(4-Methyl-piperazin-1-yl)-butyronitrile (14).
In a 25 mL flask was placed 1-methyl-piperazine (0.52 g, 5.1 mmol), 4-bromobutyronitrile (0.78 g, 5.3 mmol) and potassium carbonate (0.71 g, 5.3 mmol) suspended in acetonitrile (5 mL). The reaction mixture was stirred at rt for 4 h., followed by addition of H2O (20 mL) and extraction with ethyl acetate (3×25 mL). The combined organic phases were washed with brine (25 mL), dried (MgSO4) and evaporated to dryness to produce 0.72 g of crude 14 which was used without further purification in the synthesis of compound 15.

reactant | 1-methyl-piperazine | 5.1 mmol, 0.52 g | CN1CCNCC1 | C5H12N2
reactant | 4-bromobutyronitrile | 5.3 mmol, 0.78 g | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | 5.3 mmol, 0.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Methyl-piperazin-1-yl)-butyronitrile | CN1CCN(CC1)CCCC#N | C9H17N3
